US07709471B2
4-amino-3-fluoro-N-[(1S,5R)-9-methyl-9-azabicyclo[3.3.1]non-7-yl]benzamide
4-amino-3-fluorobenzoic acid (Fluorochem; 5.0 g, 32.2 mmol), HATU (13.5 g, 35.4 mmol) and DIPEA (18.5 mL, 106 mmol) were stirred together in anhydrous DMA (100 mL) for 25 minutes. Endo-9-methyl-9-azabicyclo[3,3,1]nonane-3-one (Chempacific; 5.5 g, 35.4 mmol) was added and the solution stirred at ambient temperature overnight.

reactant | 4-amino-3-fluorobenzoic acid | 32.2 mmol, 5.0 g | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | HATU | 35.4 mmol, 13.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 106 mmol, 18.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMA | 100 mL | CC(=O)N(C)C | C4H9NO
product | 4-amino-3-fluoro-N-[(1S,5R)-9-methyl-9-azabicyclo[3.3.1]non-7-yl]benzamide | NC1=C(C=C(C(=O)NC2C[C@H]3CCC[C@@H](C2)N3C)C=C1)F | C16H22FN3O
